US08835420B2
(S)—N6-(1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-9H-purine-2,6-diamine
(S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride (500 mg, 1.71 mmol), 6-chloro-9H-purin-2-amine (436 mg, 2.57 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.895 mL, 5.14 mmol) were combined in acetonitrile (10 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was diluted with MeOH/DMSO and purified by preparative HPLC (basic mode) eluting with 20-30% ACN in water. The fractions containing the desired compound were collected and concentrated in vacuo. The residue was re-crystallized in an EtOAc/MeOH/hexane mixture to give the title compound (295 mg, 44.4%). 1H NMR (500 MHz, CD3OD) δ ppm 1.50 (d, J=6.83 Hz, 3 H), 3.59-3.66 (m, 3 H), 3.89 (br s, 3 H), 5.56 (br s, 1 H), 6.45 (d, J=1.95 Hz, 1 H), 6.68-6.73 (m, 1 H), 7.58-7.65 (m, 2 H), 7.77-7.89 (m, 2 H); ESI-MS m/z [M+H]+ calc'd for C19H20N10, 389; found 389.

reactant | (S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride | 1.71 mmol, 500 mg | Cl.CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N
reactant | 6-chloro-9H-purin-2-amine | 2.57 mmol, 436 mg | ClC1=C2N=CNC2=NC(=N1)N | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 5.14 mmol, 0.895 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)—N6-(1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-9H-purine-2,6-diamine | 295 mg, 44.4% | CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)NC2=C1N=CNC1=NC(=N2)N | C19H20N10
